US08871777B2
5-Hydroxy-2-n-propoxybenzonitrile
5-acetyl-2-n-propoxybenzonitrile (20.3 g, 0.10 mol) was dissolved in glacial acetic acid (100 ml), followed by addition of ammonium persulfate (60 g, 0.26 mol). After sulphuric acid solution (H2SO4 10 ml/H2O 14 ml) was slowly added dropwise under ice-water bath, the reaction temperature was raised to 45° C. for 3 h. The reaction mixture was poured into ice water to generate precipitates, stirred for 0.5 h, filtered, and dried to give the title compound (13.0 g, yield: 73%). 1H NMR (CDCl3) δ: 8.00 (1H, d), 7.04 (1H, dd), 6.90 (1H, d), 4.05 (2H, t), 1.78 (2H, m), 1.01 (3H, t).

reactant | 5-acetyl-2-n-propoxybenzonitrile | 0.10 mol, 20.3 g | C(C)(=O)C=1C=CC(=C(C#N)C1)OCCC | C12H13NO2
reactant | ammonium persulfate | 0.26 mol, 60 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-2-n-propoxybenzonitrile | 13.0 g, yield: 73% | OC=1C=CC(=C(C#N)C1)OCCC | C10H11NO2
